US07777047B2
1,3-thiazole-2-sulfonyl chloride
A mixture of 1,3-thiazole-2-thiol (5.0 g), acetic acid (150 mL) and water (50 mL) was cooled to 0° C., and chlorine gas was blown into the reaction mixture at less than 20° C. When the reaction temperature ceased to rise, blowing of the chlorine gas was stopped, and nitrogen gas was blown thereinto. The reaction mixture was diluted with diethyl ether (100 mL) and saturated brine (100 mL). The organic layer was washed successively with 10% aqueous sodium sulfite solution (100 mL), aqueous sodium hydrogencarbonate (300 mL) and saturated brine (300 mL), dried over sodium sulfate, and filtrated, the filtrate was concentrated to give the title compound (6.61 g, yield 84%) as a red oil.

reactant | 1,3-thiazole-2-thiol | 5.0 g | S1C(=NC=C1)S | C3H3NS2
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
reactant | water | 50 mL | O | H2O
reactant | chlorine | ClCl | Cl2
reactant | brine | 100 mL | [Cl-].[Na+].O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1,3-thiazole-2-sulfonyl chloride | 6.61 g, yield 84% | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
